US07262212B2
A mixture of (1-benzylpiperidin-4-yl)-(4-trifluoromethoxyphenyl)amine (3.0 g, 8.3 mmol) prepared in Reference Example 129 and a catalytic amount of 10% palladium/carbon in ethanol (30 ml) was refluxed under an atmospheric pressure of hydrogen for 20 hours. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=10/1) to afford piperidin-4-yl-(4-trifluoromethoxyphenyl)amine (2.02 g, yield 94%) as a colorless crystalline powder.

reactant | (1-benzylpiperidin-4-yl)-(4-trifluoromethoxyphenyl)amine | 8.3 mmol, 3.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=C1)OC(F)(F)F | C19H21F3N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | piperidin-4-yl-(4-trifluoromethoxyphenyl)amine | 2.02 g, yield 94% | N1CCC(CC1)NC1=CC=C(C=C1)OC(F)(F)F | C12H15F3N2O
